US04978476
E. 1-Trifluoroacetyl-2-(4-bromomethylphenyl)benzimidazole
A stirred solution of 213.0 g (0.7 mole) of 1-trifluoroacetyl-2-(4-methylphenyl)benzimidazole, 125.0 g (0.7 mole) of N-bromosuccinimide, and 3.39 g (2 mole %) of benzoyl peroxide in carbon tetrachloride is heated at reflux for 20 hours. After cooling to room temperature, the reaction is diluted by the addition of carbon tetrachloride, and the solid byproducts are removed by filtration. The filtrate is concentrated in vacuo, and the product is purified by recrystallization from tetrahydrofuran.

reactant | 1-trifluoroacetyl-2-(4-methylphenyl)benzimidazole | 0.7 mole, 213.0 g | FC(C(=O)N1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)C)(F)F | C16H11F3N2O
reactant | N-bromosuccinimide | 0.7 mole, 125.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 3.39 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Trifluoroacetyl-2-(4-bromomethylphenyl)benzimidazole | FC(C(=O)N1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)CBr)(F)F | C16H10BrF3N2O
